US09290451B2
b) (S)-2-{[5-Cyclopropyl-6-(4-fluoro-benzyl)-pyridine-2-carbonyl]-amino}-4-methyl-pentanoic acid
In analogy to the procedure described in Example 5 c), (S)-ethyl 2-(5-cyclopropyl-6-(4-fluorobenzyl)picolinamido)-4-methylpentanoate was saponified with lithium hydroxide to obtain the title compound. MS (EI): m/e=385.2 [M+H]+.

reactant | (S)-ethyl 2-(5-cyclopropyl-6-(4-fluorobenzyl)picolinamido)-4-methylpentanoate | C1(CC1)C=1C=CC(=NC1CC1=CC=C(C=C1)F)C(=O)N[C@H](C(=O)OCC)CC(C)C | C24H29FN2O3
reactant | lithium hydroxide | [OH-].[Li+]
product | (S)-2-{[5-Cyclopropyl-6-(4-fluoro-benzyl)-pyridine-2-carbonyl]-amino}-4-methyl-pentanoic acid | C1(CC1)C=1C=CC(=NC1CC1=CC=C(C=C1)F)C(=O)N[C@H](C(=O)O)CC(C)C | C22H25FN2O3
